US06462035B1
E) 6-Methoxytricyclo[7.2.1.02,7]dodeca-2(7),3,5,10-tetraene-8one (For leading references, see: Heck, R. F. Org. React. (N.Y.) 1982, 27, 345, and Cabri, W.; Candiani, I. Acc. Chem. Res. 1995, 28, 2-7.)
Trifluoro-methanesulfonic acid 2-(cyclopent-3-enecarbonyl)-3-methoxy-phenyl ester (45.0 g, 129 mmol) was dissolved in DMF (100 mL) under a N2 atmosphere and treated with triethylamine (19.5 g, 193 mmol), potassium acetate (1.89 g, 19.0 mmol) and 1,3-bis(diphenylphosphino)propane (5.30 g, 12.9 mmol). This mixture was stirred and degassed (3 vacuum/N2 purge cycles) then treated wlth palladium acetate (1.16 g, 5.14 mmol). After 20 min. the mixture was warmed to 130° C. for 1 hour, cooled and poured into brine (300 mL). The resulting mixture was extracted with EtOAc (4×100 mL) and the combined organic layer was washed with sat. aq. NaHCO3 soln. (100 mL), H2O (100 mL), and brine (100 mL), dried (MgSO4), filtered and evaporated to an oil. (55 g). The oil was chromatographed on silica gel to provide product as a white solid (12.0 g, 47%). (TLC 25%EtOAc/hexanes Rf 0.27). 1H NMR (CDCl3) δ7.29 (t, J=8.0 Hz, 1H), 6.84 (d, J=8.0 Hz, 1H), 6.73 (d, J=8.0 Hz, 1H), 6.63 (dd, J=5.0,3.0 Hz, 1H), 6.15 (dd, J=5.0,3.0 Hz, 1H), 3.87 (s, 3H), 3.60 (br s, 1H), 3.39 (br s, 1H), 2.56 (AB m, 2H). 13C NMR 195.38, 161.61, 149.82, 143.47, 133.77, 131.84, 131.80, 117.51, 111.46, 57.63, 55.96, 47.63, 47.51. GSMS m/e 200 (M+). mp 135-136° C.

reactant | Trifluoro-methanesulfonic acid 2-(cyclopent-3-enecarbonyl)-3-methoxy-phenyl ester | 129 mmol, 45.0 g | C1(CC=CC1)C(=O)C1=C(C=CC=C1OC)OS(=O)(=O)C(F)(F)F | C14H13F3O5S
reactant | triethylamine | 193 mmol, 19.5 g | C(C)N(CC)CC | C6H15N
reactant | potassium acetate | 19.0 mmol, 1.89 g | C(C)(=O)[O-].[K+]
reactant | 1,3-bis(diphenylphosphino)propane | 12.9 mmol, 5.30 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | brine | 300 mL | [Cl-].[Na+].O
catalyst | palladium acetate | 5.14 mmol, 1.16 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Methoxytricyclo[7.2.1.02,7]dodeca-2(7),3,5,10-tetraene-8one | 12.0 g, 47% | COC1=CC=CC=2C3C=CC(C(C12)=O)C3 | C13H12O2
